US04572800
To 25 ml of a solution of 0.68 g of Boc-Ala-OH in methylene chloride the H-Pro-resin described above was added and 5 ml of a solution of 0.74 g of DCC in methylene chloride was then added to the resulting mixture. The mixture was reacted at room temperature for 2 hours. After washing the resin 6 times with 30 ml of methylene chloride, the resin was added to 25 ml of a methylene chloride solution of 0.68 g of Boc-Ala-OH and 0.55 g of 1-hydroxybenzotriazole. Then, 5 ml of a methylene chloride solution of 0.74 g of DCC was added thereto and the resulting mixture was again reacted in a similar manner (double coupling). The resin was thoroughly washed with methylene chloride to obtain Boc-Ala-Pro-resin.

reactant | Boc-Ala-OH | 0.68 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | H-Pro | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | DCC | 0.74 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Boc-Ala-Pro | N([C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C13H22N2O5
